US20010046991A1
Acridin-9-yl-[4-(4-benzylpiperazine-1-yl)phenyl]amine
Following the procedure outlined in Step 1 of Example 1, but substituting 9-[4-(piperazin-1-yl)phenyl]aminoacridine (Example 16) for N-(4-nitrophenyl)piperazine, and benzyl bromide for methyl iodide, afforded the title compound (15%, overall yield 2%)

reactant | N-(4-nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl iodide | CI | CH3I
product | Acridin-9-yl-[4-(4-benzylpiperazine-1-yl)phenyl]amine | yield 2% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1 | C30H28N4
